US05376647
To a solution of tetraethyl 4-(phenylthio)butylaminomethylenebisphosphonate (2.5 g) in ethanol (20 ml) was added a solution of sodium hydroxide (450 mg) in ethanol (20 ml). The mixture was heated under reflux for 4 hours and concentrated under reduced pressure. The residue was dissolved in water and the solution was subjected to column chromatography on Amberlite CG-50 (H+ form) and eluted with water to obtain diethyl 4-(phenylthio)butylaminomethylenebisphosphonate monosodium salt (810 mg). The resultant was recrystallized from methanol-hexane, m.p. 143°-145° C.

reactant | tetraethyl 4-(phenylthio)butylaminomethylenebisphosphonate | 2.5 g | C1(=CC=CC=C1)SCCCCNC(P(OCC)(OCC)=O)P(OCC)(OCC)=O | C19H35NO6P2S
reactant | sodium hydroxide | 450 mg | [OH-].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | diethyl 4-(phenylthio)butylaminomethylenebisphosphonate monosodium salt | 810 mg | [Na+].C1(=CC=CC=C1)SCCCCNC(P([O-])(O)=O)P(OCC)(OCC)=O | InChI=1S/C15H27NO6P2S.Na/c1-3-21-24(20,22-4-2)15(23(17,18)19)16-12-8-9-13-25-14-10-6-5-7-11-14;/h5-7,10-11,15-16H,3-4,8-9,12-13H2,1-2H3,(H2,17,18,19);/q;+1/p-1
